US05504076
a) N-(t-Butyloxycarbonyl)-N-(2-hydroxyethyl)hydrazine
2-Hydroxyethylhydrazine (0.228 g, 3.0 mmol) in dichloromethane (10 ml) was treated with di-t-butyldicarbonate (0.65 g, 3.0 mmol). The reaction mixture was stirred for 0.75 h and then evaporated under reduced pressure. Purification on silica gel 60 eluting with ethanol, dichloromethane (1:9) gave the title compound (0.413 g, 78%); δH (CDCl3) 1.48 (9H,s), 3.58 (2H,t, J 4.5Hz) 3.83 (2H, t, J 4.5Hz), and 3.3-4.0 (1H, brs).

reactant | 2-Hydroxyethylhydrazine | 3.0 mmol, 0.228 g | OCCNN | C2H8N2O
reactant | di-t-butyldicarbonate | 3.0 mmol, 0.65 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-(t-Butyloxycarbonyl)-N-(2-hydroxyethyl)hydrazine | 0.413 g, 78% | C(C)(C)(C)OC(=O)N(N)CCO | C7H16N2O3
